US08110585B2
2,1-benzisothiazol-4-ylmethanol
To a solution of methyl 2,1-benzisothiazole-4-carboxylate (5.00 g, 25.9 mmol) in tetrahydrofuran (129 mL) was added diisobutylaluminum hydride (1 M hexane solution, 78.0 mL, 78.0 mmol) at −78° C., and the mixture was stirred at room temperature for 3 hr. The reaction solution was cooled to 0° C., and water was added. The mixture was extracted with ethyl acetate, washed with saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=20/80) to give the title compound (4.2 g, yield 98%).

reactant | methyl 2,1-benzisothiazole-4-carboxylate | 25.9 mmol, 5.00 g | N=1SC=C2C1C=CC=C2C(=O)OC | C9H7NO2S
reactant | diisobutylaluminum hydride | 78.0 mmol, 1 M, 78.0 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | water | O | H2O
solvent | tetrahydrofuran | 129 mL | O1CCCC1 | C4H8O
product | 2,1-benzisothiazol-4-ylmethanol | 4.2 g, yield 98% | N=1SC=C2C1C=CC=C2CO | C8H7NOS
